US07718808B2
60% sodium hydride (600 mg, 15.0 mmol) was suspended in DMF (30 mL), 2-piperidone (1.49 g, 15.0 mmol) was added thereto, followed by stirring at room temperature for 30 minutes. A solution of methyl 4-bromomethylbenzoate (2.29 g, 10.0 mmol) in DMF (10 mL) was added to the reaction mixture, followed by stirring at room temperature for 3 hours. The reaction mixture was poured into a saturated aqueous solution of sodium chloride, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was distilled away under reduced pressure. The resulting residue was purified through silica gel column chromatography (ethyl acetate:methanol=9:1) to afford methyl 4-[(2-oxopiperidino)methyl]benzoate (2.47 g 100%).

reactant | sodium hydride | 15.0 mmol, 600 mg | [H-].[Na+]
reactant | 2-piperidone | 15.0 mmol, 1.49 g | N1C(CCCC1)=O | C5H9NO
reactant | methyl 4-bromomethylbenzoate | 10.0 mmol, 2.29 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | sodium chloride | [Cl-].[Na+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | methyl 4-[(2-oxopiperidino)methyl]benzoate | 2.47 g, 100% | O=C1N(CCCC1)CC1=CC=C(C(=O)OC)C=C1 | C14H17NO3
